US07745160B2
Removal of ADP Bound to PPK-ADK
Next, 50 μl of a reaction mixture containing 0.16 μg of the apyrase-treated PPK-ADK, 10 μM AMP, 400 μM polyphosphate, 8 mM MgCl2, and 60 mM Tris-HCl (pH 7.4) were prepared. Then, 5 μl of the reaction mixture were sampled and mixed with 40 μl of an ATP bioluminescence assay reagent (Roche), and luminescence was measured immediately by using a multiplate luminometer (ARVO, Wallac).

reactant | MgCl2 | 8 mM | [Mg+2].[Cl-].[Cl-]
reactant | Tris-HCl | 60 mM, pH 7.4 | C(C(CO)(CO)N)O.Cl
reactant | ATP | 40 μl | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
product | ADP | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
